US06306909B1
N-Acetyl-α-cyclododecyl-β-alanine ethyl ester
Ethyl 2-acetamidocyclododeca[b]thiophene-3-carboxylate (2.3366 g, 6.65 mmol) was reductively desulfurized using Raney nickel to yield the title compound as a yellow oil (2.1314 g, 6.55 mmol, 98.5%); TLC: RF0.75 (Solvent I), 0.46 (Solvent J); IR (cm−1): 3316 (NH), 2903 (CH aliphatic), 1725 (ester C═O), 1661 (amide C═O); 1H nmr (DMSO-d6): δ 7.88 (br s, 1H), 4.05 (q, 2H, J=8.1 Hz), 3.59 (m, 2H), 2.45 (m, 1H), 1.74 (s, 3H), 1.50 (m, 1H), 1.28 (m, 22H), 1 .15 (t, 3H, J=8.1 Hz).

reactant | Ethyl 2-acetamidocyclododeca[b]thiophene-3-carboxylate | 6.65 mmol, 2.3366 g | C(C)(=O)NC1=C(C2=C(S1)C=CC=CC=CC=CC=C2)C(=O)OCC | C19H19NO3S
catalyst | Raney nickel | [Ni] | Ni
product | N-Acetyl-α-cyclododecyl-β-alanine ethyl ester | 6.55 mmol, 2.1314 g, 98.5% | C(C)OC(C(CNC(C)=O)C1CCCCCCCCCCC1)=O | C19H35NO3
